US08912180B2
Triethyl phosphonoacetate (107 mg) was dissolved in tetrahydrofuran (1 mL), and 60% sodium hydride (19 mg) was added thereto, followed by stirring at room temperature for 30 minutes. A solution of tert-butyl (trans-4-formylcyclohexyl)carbamate (90 mg) in tetrahydrofuran (1 mL) was added dropwise thereto, followed by stirring at room temperature for 2 hours. Ethyl acetate and water were added thereto, followed by extraction with ethyl acetate. The extracts were washed with saturated brine and then dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=95:5-50:50) to obtain ethyl (2E)-3-{trans-4-[(tert-butoxycarbonyl)amino]cyclohexyl}acrylate (100 mg).

reactant | sodium hydride | 19 mg | [H-].[Na+]
reactant | tert-butyl (trans-4-formylcyclohexyl)carbamate | 90 mg | C(=O)[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C12H21NO3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | ethyl (2E)-3-{trans-4-[(tert-butoxycarbonyl)amino]cyclohexyl}acrylate | 100 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)/C=C/C(=O)OCC | C16H27NO4
